US08048879B2
In a manner similar to general method 1, 1.1 g (4.1 mmol) of 6,7-dihydro-4H-isoxazolo[4,5-c]pyridine-3,5-dicarboxylic acid 5-tert-butyl ester were reacted with 838 mg (4.1 mmol) of 4-piperazinoacetophenone to yield 790 mg (42% of theoretical) of 3-[4-(4-acetyl-phenyl)-piperazine-1-carbonyl]-6,7-dihydro-4H-isoxazolo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester, which were obtained in the form of a yellow-orange oil.

reactant | 6,7-dihydro-4H-isoxazolo[4,5-c]pyridine-3,5-dicarboxylic acid 5-tert-butyl ester | 4.1 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)ON=C2C(=O)O | C12H16N2O5
reactant | 4-piperazinoacetophenone | 4.1 mmol, 838 mg | CC(=O)C1=CC=C(C=C1)N2CCNCC2 | C12H16N2O
product | 3-[4-(4-acetyl-phenyl)-piperazine-1-carbonyl]-6,7-dihydro-4H-isoxazolo[4,5-c]pyridine-5-carboxylic acid tert-butyl ester | 790 mg, 42% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)ON=C2C(=O)N2CCN(CC2)C2=CC=C(C=C2)C(C)=O | C24H30N4O5
